US04507308
A mixture comprising 12.8 g of N-(7-chloro-4-quinolyl)-anthranilic acid sodium salt, 6.64 g of 90% 3-(β-chloroethyl)-oxazolidine-2-one and 80 ml of dimethylformamide was heated under stirring at 120° C. for five hours. Upon completion of the reaction, the mixture was cooled, filtered, and the solvent eliminated in vacuo. To the residue, 80 ml of ether were added and the solid thus obtained was collected on filter and purified by chromatography on a silica gel column using ethyl acetate as eluent. The desired product was crystallized from isopropanol to give 11.2 g of N-(7-chloro-4-quinolyl)-anthranilic acid β-(2-oxo-3-oxazolidinyl)-ethyl ester, melting at 122°-124° C.

reactant | N-(7-chloro-4-quinolyl)-anthranilic acid sodium salt | 12.8 g | [Na+].ClC1=CC=C2C(=CC=NC2=C1)NC=1C(C(=O)[O-])=CC=CC1
reactant | 3-(β-chloroethyl)-oxazolidine-2-one | 6.64 g | ClCCN1C(OCC1)=O | C5H8ClNO2
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | N-(7-chloro-4-quinolyl)-anthranilic acid β-(2-oxo-3-oxazolidinyl)-ethyl ester | 11.2 g | O=C1OCCN1CCOC(C=1C(NC2=CC=NC3=CC(=CC=C23)Cl)=CC=CC1)=O | C21H18ClN3O4
